US05506235
4-(3-Methoxyphenylamino)-2-methylquinolin-6-ol Hydrochloride
In a manner similar to that described in Example 39, Part B, 4-chloro-2-methylquinolin-6-ol and m-anisidine were converted into the title compound: m.p. 309°-311° C.

reactant | 4-chloro-2-methylquinolin-6-ol | ClC1=CC(=NC2=CC=C(C=C12)O)C | C10H8ClNO
reactant | m-anisidine | COC1=CC(=CC=C1)N | C7H9NO
product | 4-(3-Methoxyphenylamino)-2-methylquinolin-6-ol Hydrochloride | Cl.COC=1C=C(C=CC1)NC1=CC(=NC2=CC=C(C=C12)O)C | InChI=1S/C17H16N2O2.ClH/c1-11-8-17(15-10-13(20)6-7-16(15)18-11)19-12-4-3-5-14(9-12)21-2;/h3-10,20H,1-2H3,(H,18,19);1H
